US04277470
(a) 2-Nitro-3-phenyl-bicyclo[2.2.2]-oct-5-ene
45.1 g of 1,3-cyclohexadiene (EMKA), 41.9 g of ω-nitrostyrene, 60 g of o-xylene and 1 pinch of hydroquinone are treated in an autoclave at 200° C. and under a nitrogen pressure of 60 bar for 24 hours. The solvent is stripped off and the residue is distilled under a high vacuum. Boiling point 0.05 =120°-160° C.

reactant | 1,3-cyclohexadiene | 45.1 g | C1=CC=CCC1 | C6H8
reactant | ω-nitrostyrene | 41.9 g | C1=CC=C(C=C1)/C=C/[N+](=O)[O-] | C8H7NO2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | o-xylene | 60 g | CC=1C=CC=CC1C | C8H10
product | 2-Nitro-3-phenyl-bicyclo[2.2.2]-oct-5-ene | [N+](=O)([O-])C1C2C=CC(C1C1=CC=CC=C1)CC2 | C14H15NO2
